US08076486B2
N-(2-fluoro-4-iodophenyl)-4-(1H-1,2,3-triazol-4-yl)pyridin-3-amine
N-(2-fluoro-4-iodophenyl)-4-[5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl]pyridin-3-amine (20 mg, 0.044 mmol) was added into a solution of NaOH (3.5 mg, 0.088 mmol) in THF (0.5 mL) for 5 days. The mixture was diluted with MeOH and neutralized to pH7 with acidic resin (Dowex). After filtration and the filtrate was concentrated to give pure product (11.5 mg, 69%). LC/MS [Method A: rt: 0.40 min; m/z: 381 (M+1)].

reactant | N-(2-fluoro-4-iodophenyl)-4-[5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl]pyridin-3-amine | 0.044 mmol, 20 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1N=NNC1[Si](C)(C)C | C16H17FIN5Si
reactant | NaOH | 0.088 mmol, 3.5 mg | [OH-].[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | N-(2-fluoro-4-iodophenyl)-4-(1H-1,2,3-triazol-4-yl)pyridin-3-amine | 11.5 mg, 69% | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1N=NNC1 | C13H9FIN5
